US06593330B2
Step 1: 2-([1,1′-Biphenyl]-4-ylmethoxy)-6-chloropyrazine
The title compound was prepared according to the procedure of example 4, step 1 starting from 2,6-dichloropyrazine (444 mg, 3.00 mmol),p-phenylbenzyl alcohol (607 mg, 3.30 mmol) and NaH (55% in mineral oil, 144 mg, 3.30 mmol). Recrystallization from hexane gave 0.55 g (88%) of the title compound: mp 86-87° C. MS m/z: 297 (M+H)+. Anal. (C17H13ClN2O) C, H, N.

reactant | 2,6-dichloropyrazine | 3.00 mmol, 444 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | p-phenylbenzyl alcohol | 3.30 mmol, 607 mg | C1(=CC=CC=C1)C1=CC=C(CO)C=C1 | C13H12O
reactant | NaH | 3.30 mmol, 144 mg | [H-].[Na+]
product | 2-([1,1′-Biphenyl]-4-ylmethoxy)-6-chloropyrazine | 0.55 g, 88% | C1(=CC=C(C=C1)COC1=NC(=CN=C1)Cl)C1=CC=CC=C1 | C17H13ClN2O
